US07034093B2
Synthesis of Isobutyraldehyde 2,4,6-Trimethylphenylimine
2,4,6-Trimethylaniline (7.0 mL, 50 mmol, Aldrich) was mixed with isobutyraldehyde (4.5 mL, 50 mmol, Aldrich), methanol (20 mL), and formic acid (1 mL of a 88% aqueous solution, Fisher). The reaction mixture became reddish and was stirred at RT for 4 h. Assay by 1H-NMR showed a 2/1 mixture of product/starting materials. Additional isobutyric aldehyde (4 mL, 44 mmol) was added to the reaction mixture and it was stirred for 12 h. At this point assay by 1H-NMR showed a 5/1 mixture of product/amine. The solvent and excess aldehyde was evaporated, the residue was distilled at reduced pressure collecting three fractions: 1. 53–56° C./27 Pa, 1/1 mixture of product/amine; 2. 56–59° C., 7/1 product/amine; 3. 59–60° C., pure product (2.3 g, 24.3%). 1H NMR (CDCl3) 7.52 (d, 1H; J=4.8 Hz); 6.84 (br s, 2H); 2.70 (d of septets, 1H; J=4.8; 6.9 Hz); 2.26 (s, 3H); 2.05 (s, 6H); 1.22 (d, 6H; J=6.9 Hz).

reactant | 2,4,6-Trimethylaniline | 50 mmol, 7.0 mL | CC1=C(N)C(=CC(=C1)C)C | C9H13N
reactant | isobutyraldehyde | 50 mmol, 4.5 mL | C(C(C)C)=O | C4H8O
reactant | methanol | 20 mL | CO | CH4O
reactant | isobutyric aldehyde | 44 mmol, 4 mL | CC(C)C=O | C4H8O
solvent | formic acid | C(=O)O | CH2O2
product | Isobutyraldehyde 2,4,6-Trimethylphenylimine | CC1=C(C(=CC(=C1)C)C)N=CC(C)C | C13H19N
